US06969725B2
In analogy to the procedure described in example 1 f], (2S)-3-(2-chloro-4-hydroxy-phenyl)-2-ethoxy-propionic acid methyl ester (example 15 d]) was reacted with 4-chloromethyl-2-(2-methoxy-phenyl)-5-methyl-oxazole (prepared from 2-methoxy-benzaldehyde and diacetyl monoxyme followed by treatment with POCl3 in analogy to the procedures described in examples 5 a] and 2 b]) in the presence of cesium carbonate and potassium iodide to yield (S)-3-{2-chloro-4-[2-(2-methoxy-phenyl)-5-methyl-oxazol-4-ylmethoxy]-phenyl}-2-ethoxy-propionic acid methyl ester as colorless liquid.

reactant | (2S)-3-(2-chloro-4-hydroxy-phenyl)-2-ethoxy-propionic acid methyl ester | COC([C@H](CC1=C(C=C(C=C1)O)Cl)OCC)=O | C12H15ClO4
reactant | 4-chloromethyl-2-(2-methoxy-phenyl)-5-methyl-oxazole | ClCC=1N=C(OC1C)C1=C(C=CC=C1)OC | C12H12ClNO2
reactant | 2-methoxy-benzaldehyde | COC1=C(C=O)C=CC=C1 | C8H8O2
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | [I-].[K+]
product | (S)-3-{2-chloro-4-[2-(2-methoxy-phenyl)-5-methyl-oxazol-4-ylmethoxy]-phenyl}-2-ethoxy-propionic acid methyl ester | COC([C@H](CC1=C(C=C(C=C1)OCC=1N=C(OC1C)C1=C(C=CC=C1)OC)Cl)OCC)=O | C24H26ClNO6
